US07618960B2
Synthesis of (Z)-(S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-2-[1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene]-6-methylmorpholin-3-one
Triphenylphosphonium bromide (6.52 g) was added to a solution of (S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-2-hydroxy-6-methylmorpholin-3-one (4.3 g) in acetonitrile, and the reaction solution was heated under reflux for one hour. Triethylamine (5.28 mL) and 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (3.42 g) were added to the reaction solution, which was then heated under reflux for 1.5 hours. The reaction solution was concentrated under reduced pressure, and the residue was diluted with 2 N aqueous hydrochloric acid and ethyl acetate. Then, the aqueous layer was separated. The organic layer was washed with 2 N aqueous hydrochloric acid. Then, the total aqueous layers were combined and made alkaline with a concentrated sodium hydroxide solution. The organic layer was separated by extraction from the alkaline solution with ethyl acetate, and then washed with saturated sodium bicarbonate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography using NH silica gel (heptane:ethyl acetate=1:1 to 0:100) to obtain 4.06 g of the title compound. The property values corresponded to those in Example 22.

reactant | Triphenylphosphonium bromide | 6.52 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | (S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-2-hydroxy-6-methylmorpholin-3-one | 4.3 g | FC1=NC(=CC=C1[C@H](C)N1C([C@H](OC(C1)C)O)=O)F | C12H14F2N2O3
reactant | Triethylamine | 5.28 mL | C(C)N(CC)CC | C6H15N
reactant | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 3.42 g | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | (Z)-(S)-4-[(S)-1-(2,6-difluoropyridin-3-yl)ethyl]-2-[1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene]-6-methylmorpholin-3-one | 4.06 g | FC1=NC(=CC=C1[C@H](C)N1C(/C(/O[C@H](C1)C)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O)F | C24H24F2N4O3
